US06417009B1
A solution of 4-Hydroxymethyl-4-methoxymethyl-1,2-dithiacyclopentane (0.1 g) in THF (20 ml) was added to a suspension of sodium hydride (0.03 g) in THF (20 ml) and the mixture was stirred at room temperature for 30 min. Ethylene sulfate (0.14 g) was added and the resulting mixture stirred at room temperature for 48 h. Hydrochloric acid (3M, 5 ml) was added, and the aqueous layer extracted with ethyl acetate (5×20 ml). The organic layers were combined and washed with water (50 ml) and dried (Na2SO4). The solvent was removed under reduced pressure and the resulting oil purified by flash chromatography (ethyl acetate-light petroleum, 1:1 as eluant) to give 4-(2-hydroxyethoxy)methyl-4-methoxymethyl-1,2-dithiacyclopentane (66.8 mg, 54%). 1H-n.m.r. (CDCl3) δ2.93 (AB quartet, 4H), 3.34 (s, 3H), 3.36 (s, 2H), 3.46 (s, 2H), 3.56 (m, 2H). 3.70 (m, 2H); 13C-n.m.r. (CDCl3) δ44.7, 56.2, 59.3, 61.6, 72.2, 72.3, 74.2; m/z 224 (M+)

reactant | 4-Hydroxymethyl-4-methoxymethyl-1,2-dithiacyclopentane | 0.1 g | OCC1(CSSC1)COC | C6H12O2S2
reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | Ethylene sulfate | 0.14 g | S1(=O)(=O)OCCO1 | C2H4O4S
reactant | Hydrochloric acid | 3M, 5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(2-hydroxyethoxy)methyl-4-methoxymethyl-1,2-dithiacyclopentane | 66.8 mg, 54% | OCCOCC1(CSSC1)COC | C8H16O3S2
